US04895840
N,N-Bis[2-(diethylamino)ethyl]-N'-(1-methylethyl)-N'-[2-(phenylsulfonyl)ethyl]urea
A mixture of 7.67 g (0.0265 mole) of N-(1-methylethyl)-N-[2-(phenylsulfonyl)ethyl]carbamic chloride and 6.24 g (0.029 mole) of N'-[2-(diethylamino)ethyl]-N,N-diethyl-1,2-ethanediamine and 2.73 g (0.0270 mole) of triethylamine in 400 ml of tetrahydrofuran was refluxed for 6 hr and then was stirred at room temperature for 7 hr. The solvent was removed in vacuo and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was dried over sodium sulfate, and the solvent was removed in vacuo to give an oil. This was dissolved in ether, and the solution was extracted with three portions of water. The ether solution was dried over sodium sulfate, and the solvent was removed in vacuo to give an oil. This was pumped under high vacuum at 56° C. for 20 hr to give the title compound as an oil.

reactant | N-(1-methylethyl)-N-[2-(phenylsulfonyl)ethyl]carbamic chloride | 0.0265 mole, 7.67 g | CC(C)N(C(=O)Cl)CCS(=O)(=O)C1=CC=CC=C1 | C12H16ClNO3S
reactant | N'-[2-(diethylamino)ethyl]-N,N-diethyl-1,2-ethanediamine | 0.029 mole, 6.24 g | C(C)N(CCNCCN(CC)CC)CC | C12H29N3
reactant | triethylamine | 0.0270 mole, 2.73 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N,N-Bis[2-(diethylamino)ethyl]-N'-(1-methylethyl)-N'-[2-(phenylsulfonyl)ethyl]urea | C(C)N(CCN(C(=O)N(CCS(=O)(=O)C1=CC=CC=C1)C(C)C)CCN(CC)CC)CC | C24H44N4O3S
